US04328367
Production of N-isopropyl-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide
In acetone (40 ml) was dissolved N-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydroisophthalimide (2.8 g) and while stirring at room temperature, isopropylamine (0.6 g) was added. The mixture was allowed to stand for 10 hours, after which time the precipitate was recovered by filtration and washed with acetone. Yield 3.0 g.; m.p. 188°-189° C.

reactant | N-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydroisophthalimide | 2.8 g | FC1=C(C=CC(=C1)Cl)N1C(C2=CC(C1=O)CCC2)=O | C14H11ClFNO2
reactant | isopropylamine | 0.6 g | C(C)(C)N | C3H9N
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | N-isopropyl-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide | C(C)(C)NC(C1=C(C(=O)NC2=C(C=C(C=C2)Cl)F)CCCC1)=O | C17H20ClFN2O2
